US09334302B2
To the chloroform solution (30 ml) of H-Glu(OtBu)-Tyr(tBu)-Leu-OBzl was added HOBt (68 mg, 0.50 mmol), Fmoc-Glu(OtBu)-OH (468 mg, 1.10 mmol) and EDC.HCl (232 mg, 1.21 mmol) were added under ice-cooling, and the mixture was stirred at room temperature overnight. After completion of the reaction, the solvent was evaporated under reduced pressure until the mixture became 15 mL, to the concentrated solution were added under ice-cooling thiomalic acid (450 mg, 3.00 mmol) and DBU (1.34 mL, 9.00 mmol), and the mixture was stirred at room temperature for 3 hr. After completion of the reaction, to this solution was added dropwise under ice-cooling a mixture of MsOH (0.17 mL, 2.70 mmol) and chloroform (1.7 mL), chloroform (15 mL) and 20% brine (30 ml) was added to give an organic layer and an aqueous layer. Then, the aforementioned pH=9.0 washing was performed three times. The obtained organic layer was washed three times with 10% aqueous sodium carbonate solution (30 ml) and twice with 20% brine (30 ml) with stirring at room temperature, and the organic layer and the aqueous layer were partitioned. The obtained organic layer was dried over sodium sulfate and filtered. The filtrate was recovered, and the solvent in the recovered filtrate was evaporated under reduced pressure. To the obtained residue was added hexane (10 ml), and the precipitate was recovered by filtration. The recovered precipitate was dried to give H-Glu(OtBu)-Glu(OtBu)-Tyr(tBu)-Leu-OBzl (787 mg, 0.97 mmol). The yield of the finally obtained C-protected peptide was calculated from H-Leu-OBzl.TsOH salt (1.00 mmol), which is the starting material of Example 5(i), to find 97%.

reactant | H-Glu(OtBu)-Tyr(tBu)-Leu-OBzl | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C35H51N3O7
reactant | HOBt | 0.50 mmol, 68 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Fmoc-Glu(OtBu)-OH | 1.10 mmol, 468 mg | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H27NO6
reactant | EDC.HCl | 1.21 mmol, 232 mg | CCN=C=NCCCN(C)C.Cl
reactant | thiomalic acid | 3.00 mmol, 450 mg | C(C(S)CC(=O)O)(=O)O | C4H6O4S
reactant | DBU | 9.00 mmol, 1.34 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | MsOH | 2.70 mmol, 0.17 mL | S(=O)(=O)(C)O | CH4O3S
solvent | brine | 30 ml | [Cl-].[Na+].O
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.7 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | H-Glu(OtBu)-Glu(OtBu)-Tyr(tBu)-Leu-OBzl | 0.97 mmol, 787 mg | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C44H66N4O10
